US05504244
mixture of 3-(2-hydroxy-4-methylbenzoyl)benzoic acid (2.97 g), 2N sodium hydroxide (12.8 ml), and ethanol (25 ml) is heated under reflux for 15 minutes. Then, 1-bromohexane (4.21 g) is added to the cooled solution and the resulting mixture refluxed for 48 hours. The cooled mixture is diluted with water (100 ml) and extracted with ether (3×75 ml). The ether extracts are dried over magnesium sulfate and concentrated in vacuo to yield hexyl 3-(2-n-hexyloxy-4-methylbenzoyl)benzoate (4.56 g) as a dark brown oil. This ester is mixed with 2N sodium hydroxide (6.4 ml) and refluxed for 4 hours. The cooled reaction mixture is diluted with water (50 ml), washed with ether (25 ml) and acidified to pH 2.0 with concentrated hydrochloric acid. The product is extracted with ether (3×35 ml) and the combined extracts dried over magnesium sulfate, filtered, and concentrated in vacuo. The product is then dissolved in 2N sodium hydroxide (2.95 ml) and water is added to brink the total volume to 10 ml. This sodium salt is chromatographed on a Water's Prep 500A/LC System using the reverse phase prep pack-500/C18 column (water:acetone; 80:20). The fraction containing the major component is acidified to pH 2.0 with concentrated hydrochloric acid and extracted with ether (3×100 ml). The combined ether extracts are dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue is recrystallized from heptane to yield 3-(2-n-hexyloxy-4-methylbenzoyl)benzoic acid (1.50 g), m.p. 118° C.

reactant | 3-(2-hydroxy-4-methylbenzoyl)benzoic acid | 2.97 g | OC1=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=CC(=C1)C | C15H12O4
reactant | sodium hydroxide | 2N, 12.8 ml | [OH-].[Na+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | 1-bromohexane | 4.21 g | BrCCCCCC | C6H13Br
solvent | water | 100 ml | O | H2O
product | hexyl 3-(2-n-hexyloxy-4-methylbenzoyl)benzoate | 4.56 g | C(CCCCC)OC1=C(C(=O)C=2C=C(C(=O)OCCCCCC)C=CC2)C=CC(=C1)C | C27H36O4
